US04150129
The solution of 6.15 g of 3-(2-piperidinopropyl)-4-(3-methoxyphenyl)-1,5,6,7-tetrahydro-2H-azepinone in 60 ml of methylene chloride, cooled in a dry ice-acetone bath, is added slowly to 120 ml of a similarly precooled 10% solution of boron tribromide in methylene chloride. The mixture is allowed to warm to room temperature and stirred for four hours. It is again cooled in an ice bath, 120 ml of 3 N aqueous sodium hydroxide are added and stirring at room temperature is continued for 30 minutes. The aqueous layer is separated and the methylene chloride solution is washed with 60 ml of water. The combined aqueous solution is neutralized to pH=9-10 with 6 N hydrochloric acid and the precipitate collected, to yield the 3-(2-piperidinopropyl)-4-(3-hydroxyphenyl)-1,5,6,7-tetrahydro-2H-azepinone melting at 218°-220°.

reactant | 3-(2-piperidinopropyl)-4-(3-methoxyphenyl)-1,5,6,7-tetrahydro-2H-azepinone | 6.15 g | N1(CCCCC1)C(CC=1C(NCCCC1C1=CC(=CC=C1)OC)=O)C | C21H30N2O2
reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | sodium hydroxide | 3 N, 120 ml | [OH-].[Na+]
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
product | 3-(2-piperidinopropyl)-4-(3-hydroxyphenyl)-1,5,6,7-tetrahydro-2H-azepinone | N1(CCCCC1)C(CC=1C(NCCCC1C1=CC(=CC=C1)O)=O)C | C20H28N2O2
